US08304419B2
To a solution of 6-chloro-2-fluoro-3-methylphenol (3.25 g, 20.24 mmol) and 18-crown-6 (0.535 g, 2.024 mmol) in DMSO (40 ml) was added potassium tert-butoxide (20 wt % in THF) (12.49 g, 22.26 mmol) and the reaction mixture was stirred at rt for 30 minutes. Next, 4-bromo-3-fluorobenzonitrile (4.05 g, 20.24 mmol) was added and the reaction mixture stirred at 135° C. for 3 days. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-3-fluorobenzonitrile (4.56 g, 16.30 mmol, 81% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.05 (dd, 1H), 7.59 (d, 1H), 7.35-7.43 (m, 1H), 7.30 (t, 1H), 6.89 (t, 1H), 2.24 (d, 3H).

reactant | 6-chloro-2-fluoro-3-methylphenol | 20.24 mmol, 3.25 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 18-crown-6 | 2.024 mmol, 0.535 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium tert-butoxide | 22.26 mmol, 12.49 g | CC(C)([O-])C.[K+]
reactant | 4-bromo-3-fluorobenzonitrile | 20.24 mmol, 4.05 g | BrC1=C(C=C(C#N)C=C1)F | C7H3BrFN
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-3-fluorobenzonitrile | 16.30 mmol, 4.56 g, 81% yield | ClC1=CC=C(C(=C1OC1=C(C=C(C#N)C=C1)F)F)C | C14H8ClF2NO
